### ISSUE TITLE
feat(QPBT/Algebra): prove Pauli laws and cancellation

### ISSUE THREAD

**Issue by Dengnifer** [Dengnifer/MIPStarRE-A#68]
### Motivation

Close the first eleven proof holes in
`MIPStarRE/QPBT/Algebra/PauliTheorems.lean`: the general-prime Pauli laws,
their separately named characteristic-two corollaries, and Fourier cancellation.
The twelfth hole, `exists_qubitIsometry`, is explicitly excluded.

### Target declarations

1. `primeTauObservable_mul`
2. `primeTauObservable_pow`
3. `primeTauObservable_pow_char`
4. `primeTauObservable_isUnitary`
5. `primeTauObservable_eigenvalue_pow_char`
6. `primeTauObservable_X_mul_Z`
7. `tauObservable_mul`
8. `tauObservable_sq`
9. `tauObservable_X_mul_Z`
10. `ffChar_dotProduct_submodule_expect_eq_zero`
11. `avg_neg_one_pow_binTrace_eq_zero`

### Sources

- Generalized Pauli definitions and prime-characteristic identities:
  `references/qpbt-paper/04_preliminaries.tex:1052-1095`.
- Multi-qudit twisted commutation:
  `references/qpbt-paper/04_preliminaries.tex:1141-1150`.
- Fourier cancellation, Fact 3.2 of NW19:
  `references/qpbt-paper/04_preliminaries.tex:1124-1132`.
- Blueprint Pauli and cancellation nodes:
  `blueprint/src/chapter/ch11_qpbt_algebra.tex:550-672`.
- Characteristic-two scope record:
  `docs/paper-gaps/qpbt_characteristic-two-pauli-scope.tex`.

The blueprint links only the six `primeTauObservable_*` declarations to the
general Pauli node and `ffChar_dotProduct_submodule_expect_eq_zero` to the
general cancellation node. The four binary declarations are consumer
specializations and must remain unlinked to those unrestricted nodes.

### Dependencies and proof order

This packet depends only on existing definitions in `Pauli.lean`,
`FieldBasis.lean`, `Subspaces.lean`, and the proved LDT finite-field character
API. It is independent of PR #46 and issues #61-#66.

1. Prove private entrywise shift/phase product identities and the zero
   observable identity; lift them through the finite product.
2. Establish a private natural-power formula. Derive the `ZMod p` exponent
   theorem, then prove the characteristic-`p` case separately; it is not an
   instantiation at a `ZMod p` element whose representative is `p`.
3. Prove the explicit adjoint/inverse identity and derive unitarity.
4. Apply the characteristic-power result to the nonzero eigenvector and cancel
   it to obtain the eigenvalue theorem.
5. Prove the prime twisted relation entrywise using additivity of `ffChar`.
6. Prove private bridges between prime and binary observables at `p = 2`, then
   derive the three binary laws. Handle empty `ι` separately for the binary
   twisted relation, whose signature has no nonemptiness assumption.
7. For general cancellation, view the dot-product character on `V` as an
   additive character. A nonzero dot product can lie in the trace kernel, so
   rescale the nonzero linear functional to obtain a value with nonzero trace
   before applying character orthogonality.
8. Derive binary cancellation through the characteristic-two bridge.

Keep all support declarations private or file-local.

### Statement integrity

- Preserve the arbitrary-prime statements and canonical `ffChar`; do not narrow
  them to characteristic two.
- `[Nonempty ι]` on the prime twisted relation faithfully represents the paper's
  `n >= 1` condition.
- Preserve the existing `**Scope restriction:**` markers on the four binary
  corollaries.
- Preserve the complex-valued uniform expectation `submoduleExpect`; do not
  replace it with the real-valued distribution-average API.

### Ownership and non-goals

- Own only `MIPStarRE/QPBT/Algebra/PauliTheorems.lean`.
- Do not change imports, definitions, public signatures, or declaration order.
- Leave `qubitPauliProj`, `exists_qubitIsometry`, and its existing `sorry`
  unchanged.
- Do not prove the three holes in `Pauli.lean` or edit field-basis,
  self-dual-basis, subspace, blueprint, gap-note, or re-export files.
- Do not add public mechanisms, bridge assumptions, axioms, or new holes.

### Acceptance

- All eleven targets are complete with unchanged signatures; the only remaining
  `sorry` in the owned file is `exists_qubitIsometry`.
- `#print axioms` for all eleven reports no `sorryAx`.
- Statement-integrity records the six prime laws and general cancellation as
  faithful and the four binary results as documented specializations.
- `PauliTheorems.lean`, `Test/QubitForm.lean`, and
  `Observables/ExpandedDefs.lean` type-check.
- Full build, declaration check, blueprint status/axiom audit and render, diff
  check, exact-head CI, and independent review pass.

---
Stage 4.3 proof packet under #47.

**Comment by Dengnifer** [comment]
### Compile-tested proof tranche (targets 1-3)

The following unchanged-signature proof bodies compile against the current
Stage 4.2 algebra surface. `#print axioms` reports only `propext`,
`Classical.choice`, and `Quot.sound` for each target.

<details><summary><code>primeTauObservable_mul</code></summary>

```lean
by
  ext x z
  simp only [Matrix.mul_apply, primeTauObservable]
  simp_rw [← Finset.prod_mul_distrib]
  rw [← Fintype.prod_sum (f := fun i y =>
    (if W then primeTauShift (p := p) (a i) (x i) y
      else primeTauPhase (p := p) (a i) (x i) y) *
    (if W then primeTauShift (p := p) (a' i) y (z i)
      else primeTauPhase (p := p) (a' i) y (z i)))]
  congr 1
  funext i
  cases W with
  | false =>
      simp [primeTauPhase, add_mul, AddChar.map_add_eq_mul]
  | true =>
      simp [primeTauShift, add_comm, add_left_comm]
```

</details>

<details><summary><code>primeTauObservable_pow</code></summary>

```lean
by
  have hpow : ∀ n : ℕ,
      (primeTauObservable (p := p) W a) ^ n =
        primeTauObservable (p := p) W
          (fun i => a i * algebraMap (ZMod p) K (n : ZMod p)) := by
    intro n
    induction n with
    | zero =>
        rw [pow_zero]
        simp only [Nat.cast_zero, map_zero, mul_zero]
        ext x y
        by_cases hxy : x = y
        · subst y
          simp [primeTauObservable, primeTauShift, primeTauPhase]
        · rw [Matrix.one_apply, if_neg hxy]
          obtain ⟨i, hi⟩ : ∃ i, x i ≠ y i := by
            simpa [funext_iff] using hxy
          symm
          simp only [primeTauObservable]
          apply Finset.prod_eq_zero (Finset.mem_univ i)
          simp [primeTauShift, primeTauPhase, hi]
    | succ n ih =>
        rw [pow_succ, ih, primeTauObservable_mul]
        congr 1
        funext i
        simp only [Pi.add_apply, Nat.cast_add, Nat.cast_one, map_add, map_one,
          mul_add, mul_one]
  rw [hpow b.val, ZMod.natCast_zmod_val]
```

</details>

<details><summary><code>primeTauObservable_pow_char</code></summary>

```lean
by
  have hp : Nat.Prime p := Fact.out
  obtain ⟨n, rfl⟩ := Nat.exists_eq_succ_of_ne_zero hp.ne_zero
  have hzero :
      primeTauObservable (p := n + 1) W (fun _ : ι => (0 : K)) = 1 := by
    have h :=
      primeTauObservable_pow (p := n + 1) W a (0 : ZMod (n + 1))
    simpa using h.symm
  calc
    (primeTauObservable (p := n + 1) W a) ^ (n + 1) =
        (primeTauObservable (p := n + 1) W a) ^ n *
          primeTauObservable (p := n + 1) W a := pow_succ _ _
    _ = (primeTauObservable (p := n + 1) W a) ^
          (-1 : ZMod (n + 1)).val *
          primeTauObservable (p := n + 1) W a := by
        rw [ZMod.val_neg_one]
    _ = primeTauObservable (p := n + 1) W
          (fun i => a i * algebraMap (ZMod (n + 1)) K (-1)) *
          primeTauObservable (p := n + 1) W a := by
        rw [primeTauObservable_pow]
    _ = primeTauObservable (p := n + 1) W
          ((fun i => a i * algebraMap (ZMod (n + 1)) K (-1)) + a) := by
        rw [primeTauObservable_mul]
    _ = primeTauObservable (p := n + 1) W
          (fun _ : ι => (0 : K)) := by
        congr 1
        funext i
        simp
    _ = 1 := hzero
```

</details>

These proofs call only earlier declarations in this same sequence. The later
targets remain owned by #68 and are still being scouted.

**Comment by Dengnifer** [comment]
### Compile-tested proof handoff: targets 4-6

These are drop-in proofs for the existing declarations, with unchanged public
signatures. The existing imports in `PauliTheorems.lean` are sufficient; no
import change or public helper is needed. Place each private helper before the
docstring of the target that first uses it.

<details><summary>Private adjoint helper before target 4</summary>

```lean
private theorem primeTauObservable_star {p : ℕ} {K ι : Type*}
    [Field K] [Fintype K]
    [DecidableEq K] [Fact p.Prime] [Algebra (ZMod p) K] [Fintype ι]
    [DecidableEq ι] (W : Bool) (a : ι → K) :
    star (primeTauObservable (p := p) W a) =
      primeTauObservable (p := p) W (-a) := by
  rw [Matrix.star_eq_conjTranspose]
  ext x y
  simp only [Matrix.conjTranspose_apply, primeTauObservable]
  change (starRingEnd ℂ) (∏ i,
      if W then primeTauShift (p := p) (a i) (y i) (x i)
      else primeTauPhase (p := p) (a i) (y i) (x i)) = _
  rw [map_prod]
  congr 1
  funext i
  cases W with
  | false =>
      by_cases h : x i = y i
      · simp only [primeTauPhase, Pi.neg_apply, h, if_pos, neg_mul,
          map_neg, ffChar_apply]
        exact (AddChar.map_neg_eq_conj (ZMod.stdAddChar (N := p))
          (Algebra.trace (ZMod p) K (a i * y i))).symm
      · simp [primeTauPhase, h, Ne.symm h]
  | true =>
      have hiff : y i = x i + a i ↔ x i = y i + -a i := by
        constructor
        · intro h
          rw [h]
          simp
        · intro h
          calc
            y i = (y i + -a i) + a i := by simp
            _ = x i + a i := by rw [← h]
      simp [primeTauShift, hiff]
```

</details>

<details><summary><code>primeTauObservable_isUnitary</code> body</summary>

```lean
by
  rw [Matrix.mem_unitaryGroup_iff, primeTauObservable_star,
    primeTauObservable_mul]
  rw [show a + -a = (fun _ : ι => (0 : K)) by
    funext i
    simp]
  have h := primeTauObservable_pow (p := p) W a (0 : ZMod p)
  simpa using h.symm
```

</details>

<details><summary><code>primeTauObservable_eigenvalue_pow_char</code> body</summary>

```lean
by
  have hpowVec : ∀ n : ℕ,
      (primeTauObservable (p := p) W a) ^ n *ᵥ v = eigenvalue ^ n • v := by
    intro n
    induction n with
    | zero => simp
    | succ n ih =>
        rw [pow_succ, ← Matrix.mulVec_mulVec, heigen, Matrix.mulVec_smul, ih,
          smul_smul, pow_succ, mul_comm eigenvalue]
  have h := hpowVec p
  rw [primeTauObservable_pow_char, Matrix.one_mulVec] at h
  obtain ⟨i, hi⟩ : ∃ i, v i ≠ 0 := by
    simpa [funext_iff] using hv
  have hi_eq := congr_fun h i
  simp only [Pi.smul_apply, smul_eq_mul] at hi_eq
  apply mul_right_cancel₀ hi
  simpa using hi_eq.symm
```

</details>

<details><summary>Private twisted-commutation helpers before target 6</summary>

```lean
private theorem primeTauShift_mul_primeTauPhase {p : ℕ} {K : Type*}
    [Field K] [Fintype K] [DecidableEq K] [Fact p.Prime]
    [Algebra (ZMod p) K] (a b x z : K) :
    (∑ y : K, primeTauShift (p := p) a x y * primeTauPhase (p := p) b y z) =
      ffChar (p := p) (F := K) (-(a * b)) *
        ∑ y : K, primeTauPhase (p := p) b x y *
          primeTauShift (p := p) a y z := by
  simp only [primeTauShift, primeTauPhase]
  simp
  split_ifs with h
  · rw [← AddChar.map_add_eq_mul, ← map_neg, ← map_add]
    congr 2
    ring
  · rfl

private theorem ffChar_neg_dotProduct {p : ℕ} {K ι : Type*}
    [Field K] [Fintype K] [DecidableEq K] [Fact p.Prime]
    [Algebra (ZMod p) K] [Fintype ι] [DecidableEq ι] (a b : ι → K) :
    ffChar (p := p) (F := K) (-dotProduct a b) =
      ∏ i, ffChar (p := p) (F := K) (-(a i * b i)) := by
  rw [dotProduct, ← Finset.sum_neg_distrib]
  induction (Finset.univ : Finset ι) using Finset.induction_on with
  | empty => simp
  | @insert i s hi ih =>
      rw [Finset.sum_insert hi, Finset.prod_insert hi,
        AddChar.map_add_eq_mul, ih]
```

</details>

<details><summary><code>primeTauObservable_X_mul_Z</code> body</summary>

```lean
by
  ext x z
  rw [Matrix.smul_apply]
  simp only [smul_eq_mul, Matrix.mul_apply, primeTauObservable]
  simp only [if_true, Bool.false_eq_true, if_false]
  simp_rw [← Finset.prod_mul_distrib]
  rw [← Fintype.prod_sum (f := fun i y =>
    primeTauShift (p := p) (a i) (x i) y *
      primeTauPhase (p := p) (b i) y (z i))]
  rw [← Fintype.prod_sum (f := fun i y =>
    primeTauPhase (p := p) (b i) (x i) y *
      primeTauShift (p := p) (a i) y (z i))]
  rw [ffChar_neg_dotProduct]
  simp_rw [primeTauShift_mul_primeTauPhase]
  rw [Finset.prod_mul_distrib]
```

</details>

### Validation and integrity

The code was checked in an isolated module against the current imports, with
compile-tested local copies of targets 1-3 preceding it. `lake env lean` exited
successfully without warnings. `#print axioms` for each of targets 4-6 reported
exactly `propext`, `Classical.choice`, and `Quot.sound`; none reported
`sorryAx`.

Statement integrity: targets 4-6 preserve all existing signatures. Unitarity
and the eigenvalue conclusion are direct consequences of the paper's explicit
operators and characteristic-power identity. Target 6 has the paper's
`n >= 1` boundary encoded by `[Nonempty ι]`, uses the canonical `ffChar`, and
has exactly the source phase `ffChar (-dotProduct a b)`. No bridge assumption,
weakened conclusion, new axiom, or public mechanism is introduced.

**Comment by Dengnifer** [comment]
### Compile-tested proof handoff: targets 7-11

These are drop-in proofs for the existing declarations, with unchanged public
signatures. The existing imports in `PauliTheorems.lean` are sufficient; no
import change or public helper is needed. Place each private helper before the
docstring of the target that first uses it.

<details><summary>Private characteristic-two bridges before target 7</summary>

```lean
private theorem phaseSign_eq_stdAddChar (t : ZMod 2) :
    phaseSign t = ZMod.stdAddChar (N := 2) t := by
  by_cases ht : t = 0
  · subst t
    simp [phaseSign]
  · rw [phaseSign, if_neg ht]
    have hne : ZMod.stdAddChar (N := 2) t ≠ 1 := by
      intro h
      apply ht
      apply ZMod.injective_stdAddChar
      simpa using h
    have hsquare : ZMod.stdAddChar (N := 2) t *
        ZMod.stdAddChar (N := 2) t = 1 := by
      rw [← AddChar.map_add_eq_mul]
      rw [show t + t = 0 by
        calc
          t + t = t + -t := by rw [ZMod.neg_eq_self_mod_two t]
          _ = 0 := add_neg_cancel t]
      exact AddChar.map_zero_eq_one _
    exact ((mul_self_eq_one_iff.mp hsquare).resolve_left hne).symm

private theorem phaseSign_binTrace_eq_ffChar {K : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K] (x : K) :
    phaseSign (binTrace K x) = ffChar (p := 2) (F := K) x := by
  rw [ffChar_apply]
  exact phaseSign_eq_stdAddChar (binTrace K x)

private theorem tauObservable_X_eq_prime {K ι : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K]
    [Fintype ι] [DecidableEq ι] (a : ι → K) :
    tauObservable .X a = primeTauObservable (p := 2) true a := by
  rfl

private theorem tauObservable_Z_eq_prime {K ι : Type*} [Field K]
    [Fintype K] [DecidableEq K] [Algebra (ZMod 2) K]
    [Fintype ι] [DecidableEq ι] (a : ι → K) :
    tauObservable .Z a = primeTauObservable (p := 2) false a := by
  ext x y
  simp only [tauObservable, primeTauObservable]
  congr 1
  funext i
  simp only [tauPhase, primeTauPhase, Bool.false_eq_true, if_false]
  split_ifs
  · exact phaseSign_binTrace_eq_ffChar (a i * y i)
  · rfl
```

</details>

<details><summary><code>tauObservable_mul</code> body</summary>

```lean
by
  cases W with
  | X =>
      simpa only [tauObservable_X_eq_prime] using
        primeTauObservable_mul (p := 2) true a a'
  | Z =>
      simpa only [tauObservable_Z_eq_prime] using
        primeTauObservable_mul (p := 2) false a a'
```

</details>

<details><summary>Private zero-observable helpers before target 8</summary>

```lean
private theorem primeTauObservable_zero {p : ℕ} {K ι : Type*}
    [Field K] [Fintype K] [DecidableEq K] [Fact p.Prime]
    [Algebra (ZMod p) K] [Fintype ι] [DecidableEq ι] (W : Bool) :
    primeTauObservable (p := p) W (fun _ : ι => (0 : K)) = 1 := by
  ext x y
  by_cases hxy : x = y
  · subst y
    simp [primeTauObservable, primeTauShift, primeTauPhase]
  · rw [Matrix.one_apply, if_neg hxy]
    obtain ⟨i, hi⟩ : ∃ i, x i ≠ y i := by
      simpa [funext_iff] using hxy
    simp only [primeTauObservable]
    apply Finset.prod_eq_zero (Finset.mem_univ i)
    simp [primeTauShift, primeTauPhase, hi]

private theorem tauObservable_zero {K ι : Type*} [Field K] [Fintype K]
    [DecidableEq K] [Algebra (ZMod 2) K] [Fintype ι] [DecidableEq ι]
    (W : PauliKind) : tauObservable W (fun _ : ι => (0 : K)) = 1 := by
  cases W with
  | X =>
      rw [tauObservable_X_eq_prime]
      exact primeTauObservable_zero (p := 2) true
  | Z =>
      rw [tauObservable_Z_eq_prime]
      exact primeTauObservable_zero (p := 2) false
```

</details>

<details><summary><code>tauObservable_sq</code> body</summary>

```lean
by
  rw [tauObservable_mul]
  rw [show a + a = (fun _ : ι => (0 : K)) by
    funext i
    exact ZModModule.add_self (a i)]
  exact tauObservable_zero W
```

</details>

<details><summary><code>tauObservable_X_mul_Z</code> body</summary>

```lean
by
  cases isEmpty_or_nonempty ι with
  | inl _ =>
      ext x y
      have hxy : x = y := Subsingleton.elim x y
      subst y
      simp [Matrix.mul_apply, tauObservable, phaseSign, dotProduct]
  | inr _ =>
      rw [tauObservable_X_eq_prime, tauObservable_Z_eq_prime,
        primeTauObservable_X_mul_Z,
        phaseSign_binTrace_eq_ffChar, ZModModule.neg_eq_self]
```

</details>

The explicit empty-index branch is required because this binary consumer's
existing signature has no `[Nonempty ι]`, while the source-facing prime theorem
faithfully carries the paper's `n >= 1` condition.

<details><summary><code>ffChar_dotProduct_submodule_expect_eq_zero</code> body</summary>

```lean
by
  classical
  letI : Fintype V := Fintype.ofFinite V
  let dotHom : V →+ K :=
    { toFun := fun u => dotProduct (u : ι → K) v
      map_zero' := by simp [dotProduct]
      map_add' := by
        intro x y
        simp [dotProduct, add_mul, Finset.sum_add_distrib] }
  let dotChar : AddChar V ℂ :=
    (ffChar (p := p) (F := K)).compAddMonoidHom dotHom
  have hdotChar : dotChar ≠ 0 := by
    rw [AddChar.ne_zero_iff]
    change ¬ ∀ u, u ∈ V → dotProduct v u = 0 at hv
    push Not at hv
    obtain ⟨u, hu, huv⟩ := hv
    have huv' : dotProduct u v ≠ 0 := by
      rw [dotProduct_comm]
      exact huv
    letI : CharP K p :=
      (Algebra.charP_iff (ZMod p) K p).mp (ZMod.charP p)
    have hp : p = ringChar K := by
      simpa using (ringChar.eq K p).symm
    subst p
    obtain ⟨r, hr⟩ :=
      FiniteField.trace_to_zmod_nondegenerate K huv'
    have hr' : Algebra.trace (ZMod (ringChar K)) K
        (r * dotProduct u v) ≠ 0 := by
      simpa [mul_comm] using hr
    refine ⟨r • (⟨u, hu⟩ : V), ?_⟩
    change ffChar (p := ringChar K) (F := K)
      (dotProduct (r • u) v) ≠ 1
    rw [show dotProduct (r • u) v = r * dotProduct u v by
      simp [dotProduct, smul_eq_mul, mul_assoc, Finset.mul_sum]]
    rw [ffChar_apply]
    intro h
    apply hr'
    exact (AddChar.IsPrimitive.zmod_char_eq_one_iff (ringChar K)
      (ZMod.isPrimitive_stdAddChar (ringChar K)) _).mp h
  change 𝔼 u : V, dotChar u = 0
  exact AddChar.expect_eq_zero_iff_ne_zero.mpr hdotChar
```

</details>

<details><summary><code>avg_neg_one_pow_binTrace_eq_zero</code> body</summary>

```lean
by
  simp_rw [phaseSign_binTrace_eq_ffChar]
  let fintypeV : Fintype V := inferInstance
  change Finset.expect (@Finset.univ V fintypeV)
    (fun u => ffChar (p := 2) (F := K) (dotProduct (u : k → K) v)) = 0
  have h := ffChar_dotProduct_submodule_expect_eq_zero
    (p := 2) V v hv
  unfold submoduleExpect at h
  rw [show @Finset.univ V fintypeV =
    @Finset.univ V (Fintype.ofFinite V) by ext; simp]
  exact h
```

</details>

### Validation and integrity

The code was checked in isolated modules against the current imports.
Targets 7-9 were audited with local proved copies of their prime dependencies;
target 11 was audited with the proved target 10, so imported placeholders did
not enter the dependency graph. Each `lake env lean` run exited successfully
without warnings. `#print axioms` for every target 7-11 reported exactly
`propext`, `Classical.choice`, and `Quot.sound`; none reported `sorryAx`.

Statement integrity: targets 7-9 and 11 retain their documented
characteristic-two scope and exact conclusions. The sign in target 9 is exact:
in characteristic two, `-dotProduct a b = dotProduct a b`, and
`phaseSign (binTrace K x) = ffChar (p := 2) x`. Target 10 exactly formalizes
paper Fact 3.2: `v ∉ V⊥` yields a nonzero dot functional; finite-field trace
nondegeneracy supplies a rescaling with nonzero trace; primitive-character
orthogonality makes its complex uniform expectation zero. All typeclass
hypotheses are faithful finite-field/decidability boundary data. There are no
extra assumptions, weakened conclusions, axioms, conditional bridges, or new
public mechanisms.
